US06136823
Synthesis of 5-Amino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-7-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
5-Amino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (150 mg) and a methanol solution (about 28%; 200 mg) of sodium methoxide were added to methanol (2 ml), and the mixture was stirred at 45° C. for 3 days. Acetic acid (80 mg) was added to the reaction mixture, and the mixture was heated under reflux for 1 hour. After the reaction mixture was allowed to cool, deposits were collected by filtration and washed with methanol and diisopropyl ether in that order to obtain the title compound (122 mg) as a yellow powder.

reactant | 5-Amino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 150 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)Cl)C1=NC(=C(C=C1F)F)N)C(=O)O)=O | C15H7ClF4N4O3
reactant | methanol | 200 mg | CO | CH4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 2 ml | CO | CH4O
solvent | Acetic acid | 80 mg | C(C)(=O)O | C2H4O2
product | 5-Amino-1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-7-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 122 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)OC)Cl)C1=NC(=C(C=C1F)F)N)C(=O)O)=O | C16H10ClF3N4O4
